US06555678B1
A) Synthesis of ethoxydimethyloctylsilane
An amount of 29.2 g of chlorodimethyloctylsilane, i.e. 0.14 mol, is gradually introduced over 2 h 30 into the reaction mixture. 75.4 g of absolute ethanol are added in order to prevent the mixture setting solid due to the formation of ammonium chloride crystals.

reactant | chlorodimethyloctylsilane | 29.2 g | Cl[Si](CCCCCCCC)(C)C | C10H23ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethanol | 75.4 g | C(C)O | C2H6O
product | ethoxydimethyloctylsilane | C(C)O[Si](CCCCCCCC)(C)C | C12H28OSi
